US05075330
A solution of 2-[(2,3-dimethylphenyl)amino]benzaldehyde (11 g, 0.049 mol) and hydroxylamine hydrochloride (17 g, 0.25 mol) in pyridine (250 ml) is stirred at room temperature overnight. The solvent is evaporated and the residue is partitioned between ethyl acetate (200 ml) and 10% aqueous HCl (200 ml). The organic layer is washed with 10% aqueous HCl (200 ml) and water (2×100 ml). The organic layer is dried (MgSO4) and the solvent is evaporated to give 2-[(2,3-dimethylphenyl) amino]benzaldehyde oxime which is recrystallized from hexane. Yield 7.3 g (62%); mp 107°-108° C.

reactant | 2-[(2,3-dimethylphenyl)amino]benzaldehyde | 0.049 mol, 11 g | CC1=C(C=CC=C1C)NC1=C(C=O)C=CC=C1 | C15H15NO
reactant | hydroxylamine hydrochloride | 0.25 mol, 17 g | Cl.NO
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
product | 2-[(2,3-dimethylphenyl) amino]benzaldehyde oxime | CC1=C(C=CC=C1C)NC1=C(C=NO)C=CC=C1 | C15H16N2O
